data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCOc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1.[H+]", "products": "CCOc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1"}, {"reactants": "CCOc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "CCOc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1.O"}, {"reactants": "CCOc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "CCOc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1"}, {"reactants": "CCOc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1", "products": "CCOc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1"}, {"reactants": "CCOc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1.O", "products": "CCOc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1"}, {"reactants": "CCOc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1", "products": "CCOc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1"}, {"reactants": "CCOc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1", "products": "CCOc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1"}, {"reactants": "CCOc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1", "products": "CCOc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)cccc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(Br)ccc[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)ccc[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Br)cccc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Br)cccc21", "products": "CN1C(=O)C2(C=CCC2)c2c(Br)cccc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)cc1Cl", "products": "Cc1ccc([C]([O])C2C3CCC2C3)cc1Cl"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)cc1Cl", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1Cl"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1Cl", "products": "Cc1ccc(C(O)=CC2C=CCC2)cc1Cl"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)cc1Cl", "products": "Cc1ccc(C(=O)CC2C=CCC2)cc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1C", "products": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1C"}, {"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1C", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1C", "products": "Cc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1C"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1", "products": "CCC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1"}, {"reactants": "CCC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(CC)c1ccccc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(CC)c1ccccc1", "products": "CCC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(F)cc(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)cc(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)cc(F)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(F)cc(F)c2)O1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)COC)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(F)c1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1F)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(C(C)C)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(C(C)C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(C(C)C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(C(C)C)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(C(C)C)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(C(C)C)C1CC(C(=O)OC)C(=O)C2"}]}
